toll_L16.cir - L16 scratch: L27 tolerance corners of block B with the attenuator source the trim adds (2.611 k)
* Scratch, not versioned. The corners are L12's toll_B.cir
* (docs/preamp/data/2026-09-14/L12/esplorazione/deck/toll_B.cir), applied to the
* adopted network of ADR-025 + ADR-026: C124 470p and C137 330p at -5 % / +5 %
* (C0G), RISO 47 at -1 % / +1 %. Modes 0 dB and +3 dB (+10 dB sits above 100 deg).
* Source 2 k and 2.5 k, load 100 k and 10 k, cable 2.0 .. 4.7 nF in 11 steps,
* denser around the +3 dB minimum at 2.7 nF.
* Node names: VSRCN, OUTA, JACK, NBRK (#24).

.include @REPO@/spice/preamp/placeholder_devices.lib
.include @REPO@/models/bjt_pnp/ls350.lib
.include @REPO@/spice/preamp/gain_block_flat.inc

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
VIN VSRCN 0 DC 0
RSRCB VSRCN IN 2.5k

CSTRAY   RG   0 15p
RRG      RG   0 1G
CSTRAY10 RG10 0 15p
RRG10    RG10 0 1G

RBRK FB NBRK 100
VINJ NBRK G2 DC 0 AC 1

RISO   OUT OUTA 47
COUT   OUTA JACK 4.7u
RBLEED JACK 0 220k
RLOAD  JACK 0 100k
CCABLE JACK 0 1f

.control
alter r109 = 1G
set units = degrees
echo "mode,c124,c137,riso,rsrc,rload,ccable,pm_deg" > toll_L16_tab.csv
foreach mode 0 3
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 3
    alter rrg = 0.1
    alter rrg10 = 1G
  end
  foreach mm 0.95 1.05
    let cmv = 470e-12*$mm
    alter c124 = $&cmv
    foreach fm 0.95 1.05
      let cfv = 330e-12*$fm
      alter c137 = $&cfv
      foreach rm 0.99 1.01
        let rv = 47*$rm
        alter riso = $&rv
        foreach rs 2.5k 2.611k
          alter rsrcb = $rs
          foreach rl 100k 10k
            alter rload = $rl
            foreach cab 2n 2.3n 2.5n 2.7n 2.9n 3.1n 3.3n 3.5n 3.8n 4.2n 4.7n
              alter ccable = $cab
              ac dec 100 1 100meg
              let T = v(fb)/v(g2)
              let Tdb = db(T)
              let Tph = ph(T)
              meas ac pmarg find Tph when Tdb=0
              echo "$mode,$&cmv,$&cfv,$&rv,$rs,$rl,$cab,$&pmarg" >> toll_L16_tab.csv
              destroy all
            end
          end
        end
      end
    end
  end
end
.endc

.end
